* Copyright (c) 1998-2023 Analog Devices, Inc.  All rights reserved.
*
.subckt ADA4097-1 1 2 3 4 5 6
B1 MID N004 I=10u*dnlim(uplim(V(1,MID),V(4,MID)+69.3,.1), V(4,MID)-.15, .1)+1n*V(1,MID)-10.72254n
C10 N004 MID 50f Rpar=100K noiseless
M1 N019 NG Vee Vee NI temp=27
C2 Vcc 5 1p Rpar=1g noiseless
D5 NG Vee DLIMN1
M2 P001 N005 N002 N002 PI temp=27
A3 N013 N015 Vee Vee Vee Vee N005 Vee OTA g=2u ref=-.305 linear vlow=-1e308 vhigh=1e308
C11 5 Vee 1p Rpar=1g noiseless
D6 NG Vee DLIMN2
C16 N015 5 52p
A5 N010 MID N013 N013 N013 N013 N015 N013 OTA g=40u isource=5.05u Vlow=-1e308 Vhigh=1e308
G1 Vee NG N015 N013 140n
D9 N015 N013 DLIM
C7 2 MID 3p Rser=1k Rpar=100G noiseless
C13 Vcc Vee 10p
C1 N007 MID 280f
G2 MID N013 Vee MID .5m
G4 MID N013 Vcc MID .5m
C18 N013 MID 200p Rpar=1K noiseless
C6 1 MID 3p Rser=1k Rpar=100G noiseless
D3 Vcc N002 DSBD
C5 Vcc N002 100f Rpar=10Meg noiseless
D4 N002 N005 DLIMP
D2 N007 MID DLIM0
D1 Vee 5 DESD
D8 Vee 1 DESD
D10 Vee 2 DESD
A2 N014 MID MID MID MID MID MID MID OTA g=0 in=0.5p ink=15
D11 5 N019 DNR
C15 N019 Vee 100f Rpar=10Meg noiseless
D7 N005 Vcc DLIMPR
A6 Vee Vcc M M M M N003 M OTA g=2u iout=1u ref=-2.5 Rout=1Meg Cout=100f vlow=-1e308 vhigh=1e308
S4 N021 Vee N003 MID SBiasN
D13 Vcc N012 DBiasDrop
C14 N021 Vee 100f
S2 N002 N005 MID N003 SHUT
S3 NG Vee MID N003 SHUT
D16 2 1 D10Meg
C17 N008 MID 2250f noiseless Rser=2.7Meg Rpar=1Meg
G3 MID N008 N007 MID 1µ
D17 MID N007 DNLIN
G5 MID N009 N008 MID 1µ
S5 N013 N015 Vee 5 SGK
C3 Vcc N005 .9p Rser=700k noiseless
C12 NG Vee .9p Rser=700k noiseless
D14 2 N012 DBiasOTT
D15 1 N021 DBiasOTT
S1 MID N006 Vcc 2 SNOI
A7 N006 MID MID MID MID MID MID MID OTA g=0 in=17.25p ink=5
A1 2 1 MID MID MID MID MID MID OTA g=0 in=0f ink=15
GNOI_I 1 2 N014 MID 1µ
S6 MID N014 Vcc 2 SNOI
A4 MID N004 MID MID MID MID N007 MID OTA g=1u linear en=53n*(1+freq/160e3) enk=0.98 Vhigh=1e308 Vlow=-1e308
GNOI_V N004 MID N006 MID 10n
S9 Vcc Vee N016 MID SP
S10 Vcc N005 N016 MID SHUT2
S11 NG Vee N016 MID SHUT2
S7 5 MID N016 MID SHUT2
S8 P001 5 MID N016 SHUT3
S13 N018 Vee MID N016 SHUT3
G6 MID M 3 MID 500µ
R1 M MID 1k noiseless
G7 MID M 4 MID 500µ
R2 N026 MID 58 noiseless
C4 N027 N026 10n Rpar=47.9K noiseless
R3 N027 MID 1 noiseless
G8 MID N027 1 MID 5.25m
G9 MID N027 2 MID 5.25m
G10 MID N027 MID 3 5.25m
G11 MID N027 MID 4 5.25m
G12 MID N004 MID N026 1µ
D12 Vcc N018 DP
S12 N012 N021 MID N016 SHUT3
C20 N010 MID 330f Rpar=1Meg noiseless
G13 MID N010 N009 MID 1µ
C19 N009 MID 125.26f noiseless Rser=2.667Meg Rpar=1Meg
D18 Vee 6 DSHUT1
C8 6 MID 100f
A8 6 Vee MID MID MID MID N016 MID SCHMITT Vt=1.5 Vh=1m Trise=1u Tfall=20u
I1 MID 2 125p
G14 0 N024 Vcc 0 1k
G15 0 N028 Vee 0 1k
R5 N024 0 1m Noiseless
R6 N028 0 1m Noiseless
C21 N024 0 1n
C22 N028 0 1n
R10 N025 N024 1Meg Noiseless
R11 N025 N028 1Meg Noiseless
C23 N025 0 1
E1 MID 0 N025 0 1
R12 MID 0 1Meg Noiseless
C24 MID 0 10n
R13 Vee 4 1µ
R14 Vcc 3 1µ
B3 N004 MID I=10u*dnlim(uplim(V(2,MID),V(4,MID)+69.3,.1), V(4,MID)-.16, .1)+1n*V(2,MID)
.model DP D(Ron=1k Roff=1G Vfwd=2.5 epsilon=100m ilimit=6.5u noiseless)
.model SP SW(Ron=100 Roff=1G vt=.5 vh=10m ilimit=15u noiseless)
.model DESD D(Ron=1k Roff=1G vfwd=700m epsilon=100m noiseless)
.model SNOI SW(Ron=1 Roff=1Meg vt=1.2 vh=-100m noiseless)
.model NI VDMOS(Vto=361.95m Kp=69.6m Mtriode=.9 lambda=.01)
.model PI VDMOS(Vto=-361.95m Kp=174m lambda=.01 pchan is=0)
.model DLIM0 D(Ron=10 Roff=10Meg Vfwd=1 epsilon=100m Vrev=1 epsilon=100m noiseless)
.model DNLIN D(Roff=1.8Meg Ron=800k vfwd=0 epsilon=10m noiseless)
.model DLIM D(Ron=100 Roff=4.755Meg Vfwd=700m Vrev=100m epsilon=10m revepsilon=10 noiseless)
.model SHUT SW(level=2 Ron=10k Roff=100G vt=-.5 vh=-.2 noiseless)
.model DSHUT1 D(Ron=1000 Roff=0.823E6 Vfwd=1 epsilon=100m Vrev=1 epsilon=100m ilimit=100n revilimit=0.1n noiseless)
.model DSBD D( Ron=15 Roff=100Meg  Vfwd=-70m epsilon=50m  Vrev=100 revepsilon=10m noiseless)
.model DNR D(Ron=1 Roff=100Meg Vfwd=-16m epsilon=300m noiseless)
.model DLIMN1 D(Ron=200k Roff=415Meg Vfwd=1.378 Vrev=-330m epsilon=.1 noiseless)
.model DLIMN2 D(Ron=5Meg Roff=1G Vfwd=-20m epsilon=50m ilimit=44n noiseless)
.model DLIMP D(Ron=100k Roff=100Meg Vfwd=0.805 epsilon=10m noiseless)
.model DLIMPR D(Ron=5Meg Roff=1G Vfwd=100m epsilon=10m noiseless)
.model SGK SW(level=2 Ron=65k Roff=100G  vt=-260m vh=150m oneway epsilon=10m noiseless)
.model SBiasN SW(level=2 Ron=5k Roff=1g vt=.5 vh=-.2 ilimit=0.2u noiseless)
.model DBiasDrop D(Ron=1k Roff=1G vfwd=0.31 epsilon=200m noiseless)
.model DBiasOTT D(Ron=500 Roff=1G vfwd=700m epsilon=200m noiseless)
.model D10Meg D(Ron=10Meg Roff=10Meg vfwd=0 vrev=0 ilimit=10n revilimit=10n noiseless)
.model SHUT3 SW(Ron=10 Roff=10G vt=-0.5 vh=100m noiseless)
.model SHUT2 SW(Ron=10 Roff=10G vt=0.5 vh=100m noiseless)
.ends ADA4097-1
